US06933311B2
tert-butyl 4-[(4-tert-butylbenzyl)amino]-3-(5-isoquinolinyl)-4-oxobutanoate
The title compound was prepared using the procedure described in Example 222B using 4-(tert-butyl)benzylamine and 4-tert-butoxy-2-(5-isoquinolinyl)-4-oxobutanoic acid instead of 4-(trifluoromethoxy)benzylamine and 5-isoquinolinylacetic acid. MS (ESI+) m/z 447 (M+H)+; 1H NMR (DMSO, 300 MHz) δ 1.23 (s, 9H), 1.25 (s, 9H), 2.71 (dd, 1H), 3.02 (dd, 1H), 4.22 (m, 2H), 4.71 (m, 1H), 6.57 (s, 1H), 7.08 (d, J 8.5, 2H), 7.24 (d, J 8.5, 2H), 7.67 (m, 1H), 7.78 (m, 1H), 8.03 (d, J 7.8, 1H), 8.13 (d, J 7.1, 1H), 8.55 (d, J 6.8, 1H), 8.63 (m, 1H), 9.31 (s, 1H); Anal. Calcd for C28H34N2O3+1 CH3CN+0.8H2O: C, 71.77; H, 7.75; N, 8.37. Found: C, 71.64; H, 7.38; N, 8.16.

reactant | 4-(tert-butyl)benzylamine | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | 4-tert-butoxy-2-(5-isoquinolinyl)-4-oxobutanoic acid | C(C)(C)(C)OC(CC(C(=O)O)C1=C2C=CN=CC2=CC=C1)=O | C17H19NO4
reactant | 5-isoquinolinylacetic acid | C1=NC=CC2=C(C=CC=C12)CC(=O)O | C11H9NO2
product | tert-butyl 4-[(4-tert-butylbenzyl)amino]-3-(5-isoquinolinyl)-4-oxobutanoate | C(C)(C)(C)C1=CC=C(CNC(C(CC(=O)OC(C)(C)C)C2=C3C=CN=CC3=CC=C2)=O)C=C1 | C28H34N2O3
